US08871756B2
cis-N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-cyclohexane-1,4-diamine
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and cis-cyclohexane-1,4-diamine. MS obsd. (ESI+) [(M+H)+] 451, 1H NMR (400 MHz, DMSO-d6) δ ppm 7.91-7.85 (m, 2 H), 7.79 (s, 1 H), 7.58 (td, J=7.45, 1.26 Hz, 1 H), 7.51-7.44 (m, 1 H), 7.29 (d, J=8.59 Hz, 1 H), 7.21 (dd, J=8.59, 1.52 Hz, 1 H), 6.17 (d, J=7.58 Hz, 1 H), 6.03 (s, 1 H), 5.06 (brs, 2 H), 4.50 (brs, 1 H), 4.11 (d, J=4.55 Hz, 1 H), 3.67 (d, J=4.80 Hz, 1 H), 3.64-3.56 (m, 2 H), 3.16 (m, 2 H), 3.06 (brs, 1 H), 2.35 (s, 3 H), 1.83-1.44 (m, 8 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | cis-cyclohexane-1,4-diamine | [C@H]1(CC[C@@H](CC1)N)N | C6H14N2
product | cis-N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-cyclohexane-1,4-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N[C@@H]2CC[C@@H](CC2)N)C)=O | C25H30N4O2S
